US09340498B2
Synthesis of cyanomethyl methyl(pyridin-4-yl)carbamodithioate (2)
To a cold (−10° C.) solution of 4-(methylamino)pyridine (9 g, 0.0841 mol) in anhydrous THF (200 mL) was added n-butyl lithium (2.5M, 44 mL, 0.11 mol) dropwise such that the temperature remained below −7° C. The resulting pale yellow suspension was allowed to stir for about one hour at −10° C. To this mixture was added carbon disulfide (10.2 mL, 12.936 g, 0.168 mol) over one hour at 0° C. and the mixture was left to stir overnight at room temperature. The resultant mixture was cooled to 0° C. and bromoacetonitrile (8.8 mL, 15.14 g, 0.126 mol) was added dropwise. The resultant mixture was stirred at room temperature for two hours. The reaction mixture was extracted with diethyl ether (400 mL) and washed with saturated NaHCO3 and brine. The organic layers were combined and dried (Na2SO4) and reduced to a dark brown oil. The crude was dissolved in ethyl acetate and purified by column chromatography (silica gel 60, 70-230 mesh, 30% ethyl acetate in n-hexane as eluent), gave the title compound as off-white cubes (11.05 g, 59% yield). 1H nmr (CDCl3) δ (ppm) 3.78 (s, 3H, N—CH3); 4.05 (s, 2H, SCH2CN); 7.25 (m, 2H, m-ArH); 8.75 (m, 2H, o-ArH).

reactant | 4-(methylamino)pyridine | 0.0841 mol, 9 g | CNC1=CC=NC=C1 | C6H8N2
reactant | n-butyl lithium | 0.11 mol, 2.5M, 44 mL | C(CCC)[Li]
reactant | carbon disulfide | 0.168 mol, 10.2 mL, 12.936 g | C(=S)=S | CS2
reactant | bromoacetonitrile | 0.126 mol, 8.8 mL, 15.14 g | BrCC#N | C2H2BrN
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | cyanomethyl methyl(pyridin-4-yl)carbamodithioate | 59% yield | CN(C(=S)SCC#N)C1=CC=NC=C1 | C9H9N3S2
